US08183246B2
2-Amino-5-phenyl-3-furonitrile
Add 68.6 ml (663 mmol) diethylamine dropwise to a mixture of 60.0 g (301 mmol) bromoacetophenone and 25.89 g (391.86 mmol) malononitrile in 130 ml DMF at RT (cooling is required to maintain the temperature). Towards the end of addition, remove the cooling, stir the mixture for 1 h at RT and then add water to 385 ml. Dilute with a further 125 ml water and stir for 20 min at RT. Filter off the precipitated solids with suction, wash twice with 125 ml water each time, dry under suction and wash with petroleum ether. Dry the residue at high vacuum. 33.3 g (50.1% of theor.) of the target compound is obtained as yellowish-brown crystals.

reactant | diethylamine | 663 mmol, 68.6 ml | C(C)NCC | C4H11N
reactant | bromoacetophenone | 301 mmol, 60.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | malononitrile | 391.86 mmol, 25.89 g | C(CC#N)#N | C3H2N2
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 2-Amino-5-phenyl-3-furonitrile | NC=1OC(=CC1C#N)C1=CC=CC=C1 | C11H8N2O
